US06288096B1
5 g (36 mmole) 4-aminophenethyl alcohol was dissolved in tetrahydrofuran and cooled on an icebath. 7.95 g (36 mmole) di-tert-butyl dicarbonate was added in portions. The reaction mixture was stirred at room temperature over night. The solvent was evaporated in vacuo to give 8 g (yield 94%) of 2-[4-(tert-butoxycarbonylamino)phenyl]-1-ethanol as a white powder.

reactant | 4-aminophenethyl alcohol | 36 mmole, 5 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | di-tert-butyl dicarbonate | 36 mmole, 7.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[4-(tert-butoxycarbonylamino)phenyl]-1-ethanol | 8 g, yield 94% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCO | C13H19NO3
